US07019034B2
(E)-3-(3-Propoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2-fluoropent-2-enal (Intermediate 9)
A solution of (E)-3-(3-propoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2-fluoropent-2-enol (2.05 g, 6.13 mmol) in dichloromethane (81 mL) and acetonitrile (16 mL) was treated with tetrapropylammonium peruthenate (0.305 g, 0.92 mmol), 4 Å molecular sieves (0.442 g), and N-methylmorpholine-N-oxide (2.41 g, 15.3 mmol), and the solution was stirred for 0.5 h at ambient temperature. The mixture was filtered through a sintered glass funnel containing a bed of silica gel about 1 inch thick using 20% ethyl acetate in hexane as the eluent. The solvent was removed in vacuo to give the title compound.

reactant | (E)-3-(3-propoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2-fluoropent-2-enol | 6.13 mmol, 2.05 g | C(CC)OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)/C(=C(\CO)/F)/CC | C22H33FO2
reactant | tetrapropylammonium | 0.92 mmol, 0.305 g | C(CC)[N+](CCC)(CCC)CCC
reactant | N-methylmorpholine-N-oxide | 15.3 mmol, 2.41 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | dichloromethane | 81 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
product | (E)-3-(3-Propoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2-fluoropent-2-enal | C(CC)OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)/C(=C(\C=O)/F)/CC | C22H31FO2
